US08044067B2
Compound 11: 2-methyl-4-(3,5-dichlorophenyl)-7-methoxy-1,4-dihydro-3(2H)-isoquinolinone
A solution of 2-methyl-4-(3,5-dichlorophenyl)-4-(phenylsulfanyl)-7-methoxy-1,4-dihydro-3(2H)-isoquinolone (1.0 g) and nickel chloride hexahydrate (3.8 g) in methanol-tetrahydrofuran (3:1, 50 ml) was cooled to 0° C. Sodium borohydride (0.66 g) was added in small portions during 30 minutes at a temperature not exceeding 5° C. The slurry was filtered and the filtrate concentrated to dryness. The residue was partitioned between dichloromethane (200 ml) and aqueous sodium hydroxide (2M, 200 ml). The organic phase was dried and concentrated to dryness leaving crude 2-methyl-4-(3,5-dichlorophenyl)-7-methoxy-1,4-dihydro-3(2H)-isoquino-linone (0.7 g). The crude product was purified by chromatography on silica gel using a mixture of dichloromethane and ethyl acetate (8:2) as eluent. Crystallization from methanol afforded the pure title compound, m.p. 163-165° C.

reactant | 2-methyl-4-(3,5-dichlorophenyl)-4-(phenylsulfanyl)-7-methoxy-1,4-dihydro-3(2H)-isoquinolone | 1.0 g | CN1CC2=CC(=CC=C2C(C1=O)(SC1=CC=CC=C1)C1=CC(=CC(=C1)Cl)Cl)OC | C23H19Cl2NO2S
reactant | Sodium borohydride | 0.66 g | [BH4-].[Na+]
solvent | methanol tetrahydrofuran | 50 ml | CO.O1CCCC1
catalyst | nickel chloride hexahydrate | 3.8 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 2-methyl-4-(3,5-dichlorophenyl)-7-methoxy-1,4-dihydro-3(2H)-isoquinolinone | CN1CC2=CC(=CC=C2C(C1=O)C1=CC(=CC(=C1)Cl)Cl)OC | C17H15Cl2NO2
